US05241076
a) 2-Benzyl-7,8dimethyl-2,7-diazabicyclo[3.3.0]octane
14.4 g (50 mol) of ethyl 2-benzyl-8-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate in 20 ml of absolute tetrahydrofuran are added dropwise to 3.8 g (0.1 mol) of lithium aluminum hydride in 100 ml of absolute tetrahydrofuran and the mixture is then heated under reflux overnight. It is decomposed successively using 4 ml each of water, 15% strength potassium hydroxide solution and water, and the inorganic salts are filtered off with suction and boiled three times with 50 ml of tetrahydrofuran each time. The organic solutions are concentrated and the residue is distilled.

reactant | ethyl 2-benzyl-8-methyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 50 mol, 14.4 g | C(C1=CC=CC=C1)N1C2C(N(CC2CC1)C(=O)OCC)C | C17H24N2O2
reactant | lithium aluminum hydride | 0.1 mol, 3.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 4 ml | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-Benzyl-7,8dimethyl-2,7-diazabicyclo[3.3.0]octane | C(C1=CC=CC=C1)N1C2C(N(CC2CC1)C)C | C15H22N2
